US05173493
To a suspension of 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (500 mg) in N,N-dimethylformamide (5 ml) at room temperature was added sodium hydride (60% in mineral oil, 79 mg). After stirring at room temperature for 10 minutes and then at 5° C. for 5 minutes, the solution was treated with a solution of benzyl chloride (249 mg) in N,N-dimethylformamide (1 ml) at 5° C. The mixture was stirred at 5° C. for 10 minutes and then at room temperature for 2 hours. The reaction mixture was diluted with chilled water and extracted twice with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The oil obtained was purified by silica gel column chromatography (1% methanol-chloroform) to give 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one (468 mg).

reactant | 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 500 mg | CC1=C(N=CN1)CC1CCC=2N(C3=CC=CC=C3C2)C1=O | C17H17N3O
reactant | sodium hydride | 79 mg | [H-].[Na+]
reactant | benzyl chloride | 249 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | 468 mg | C(C1=CC=CC=C1)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2)C1=O | C24H23N3O
